US07351825B2
d) 5-[5-(1,1-difluoroethyl)-isoxazol-3-yl]-thiophene-2-sulfonic acid chloride (step 5-10)
To a suspension of 5-[5-(1,1-difluoroethyl)-isoxazol-3-yl]-thiophene-2-sulfonic acid (9.5 g, 32 mmol) obtained in Preparation Example 5-10-c) in thionyl chloride (50 mL) was added dimethylformamide (1.0 mL) under argon atmosphere, and the suspension was stirred at 80° C. for 16 hours. The obtained solution was concentrated, and chloroform (100 mL) was added. After azeotropic removal of residual solvent with chloroform, chloroform (50 mL) was added to the residue. The obtained mixture was extracted twice, sequentially washed with water (20 mL) and saturated aqueous sodium chloride solution (10 mL), and dried over magnesium sulfate. After filtration and evaporation, the obtained residue was separated and purified by silica gel chromatography (hexane:ethyl acetate=15:1) to give the title compound (6.9 g, 68%) as a yellow solid.

reactant | 5-[5-(1,1-difluoroethyl)-isoxazol-3-yl]-thiophene-2-sulfonic acid | 32 mmol, 9.5 g | FC(C)(F)C1=CC(=NO1)C1=CC=C(S1)S(=O)(=O)O | C9H7F2NO4S2
reactant | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-[5-(1,1-difluoroethyl)-isoxazol-3-yl]-thiophene-2-sulfonic acid chloride | 6.9 g, 68% | FC(C)(F)C1=CC(=NO1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClF2NO3S2
